US06106744
Toluene, 1000 milliliters (mL), heptanes, i.e., a C7 distillate having a boiling range of from 82 to 98° C., (1000 mL), methylene chloride (1000 mL), phosphoric acid, 20.0 grams of an 85 weight percent solution, 5.0 grams of hypophosphorus acid and 625.0 grams of 3-(ethoxycarbonyl)methoxycarbonyl-1-hydroxy-6-methylnaphthalene were added to a reaction flask. The reaction flask was a 5 liter four necked round bottom reactor equipped with an overhead mechanical stirrer, thermometer, electric heating mantle, heavier than water Barrett water trap, Fredrich's condenser and bottom outlet. The mixture was heated to reflux (~55° C.) and about 2 mL of water was removed. 1,1-Diphenyl-2-propyn-1-ol, 903.25 grams of a 61 weight percent solution in methylene chloride, was added to the reactor and the mixture was heated at reflux (~57° C.) for about 8 hours. The hot mixture was filtered to separate the insoluble desired product from the other products of reaction. The crystals were washed with 1 liter of a 1:1:2 mixture of toluene:heptanes:methylene chloride and dried to yield 144 grams of 2-diphenylmethyl-6-hydroxy-9-methyl-4-oxo-4H-naphtho[2,1-c]pyran.

reactant | Toluene | C1(=CC=CC=C1)C | C7H8
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | hypophosphorus acid | 5.0 grams | OP=O | HO2P
reactant | 3-(ethoxycarbonyl)methoxycarbonyl-1-hydroxy-6-methylnaphthalene | 625.0 grams | C(C)OC(=O)COC(=O)C=1C=C(C2=CC=C(C=C2C1)C)O | C16H16O5
solvent | water | about 2 mL | O | H2O
solvent | methylene chloride | 1000 mL | C(Cl)Cl | CH2Cl2
product | 2-diphenylmethyl-6-hydroxy-9-methyl-4-oxo-4H-naphtho[2,1-c]pyran | 144 grams | C1(=CC=CC=C1)C(C1=CC2=C(C(O1)=O)C=C(C1=CC=C(C=C12)C)O)C1=CC=CC=C1 | C27H20O3
